US05910605
The reaction of (3-benzyloxy-2-methylphenyl)magnesium chloride with carbon dioxide to give 3-benzyloxy-2-methylbenzoic acid can be carried out such that excess carbon dioxide gas is passed into the solution of the Grignard reagent (5) in THF. The alternative exists of initially introducing THF while passing in carbon dioxide gas and adding the Grignard solution. In this case, a suspension of the magnesium chloride salt of the acid (6) is formed first. The salt is hydrolyzed with sufficient aqueous mineral acid, preferably aqueous hydrochloric acid, such that the free acid (6) is completely liberated.

reactant | (3-benzyloxy-2-methylphenyl)magnesium chloride | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)[Mg]Cl)C
reactant | carbon dioxide | C(=O)=O | CO2
product | 3-benzyloxy-2-methylbenzoic acid | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1)C | C15H14O3
